US04258045
Step C: Preparation of 2,4-Diamino-5-{3'-[3"-(p-acetamidophenylthio)propoxy]-4-methoxybenzyl}pyrimidine
A mixture of 3.6 g of 2,4-diamino-5-(3'-hydroxy-4'-methoxybenzyl)pyrimidine hydrochloride, 3.4 g of 3-(p-acetamidophenylthio)propyl chloride, 3.8 ml of methanol, 12 ml of an aqueous solution containing 0.027 mole of potassium hydroxide and 0.2 g of potassium iodide is heated at reflux for 20 hr. The mixture is cooled and filtered to remove a small amount of inorganic material. Water, (75 ml) is added to the filtrate, and the methanol is removed by vacuum distillation. After the addition of 50 ml of methylene chloride the mixture is stirred for 30 min. and then filtered to obtain a crystalline product. After twice recrystallizing from 50% aqueous ethanol the product 2,4-diamino-5-{3'-[3"-(p-acetamidophenylthio)propoxy]-4'-methoxybenzyl}pyrimidine, weighes 1.94 g and has m.p. 175°-177°.

reactant | 2,4-diamino-5-(3'-hydroxy-4'-methoxybenzyl)pyrimidine hydrochloride | 3.6 g | Cl.NC1=NC=C(C(=N1)N)CC1=CC(=C(C=C1)OC)O
reactant | 3-(p-acetamidophenylthio)propyl chloride | 3.4 g | C(C)(=O)NC1=CC=C(C=C1)SCCCCl | C11H14ClNOS
reactant | potassium hydroxide | 0.027 mole | [OH-].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
solvent | methanol | 3.8 ml | CO | CH4O
product | 2,4-Diamino-5-{3'-[3"-(p-acetamidophenylthio)propoxy]-4-methoxybenzyl}pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C=C1)OC)OCCCSC1=CC=C(C=C1)NC(C)=O | C23H27N5O3S
